US08957203B2
To magnesium turnings (7.44 g, 0.020 moles) in dry THF (100 mL) and was added a iodine (100 mg) at room temperature. To this reaction mass was added a solution of 5-bromohex-1-ene (50 g, 362 mmoles) in THF (200 mL). The reaction mass was heated with hot air gun to initiate the reaction. Upon completion of the reaction the solution was transferred by cannula to a solution of (S)-propylene oxide (14 g, 241 mmol) and copper bromide (3.45 g, 24 mmol) in THF (100 mL) at −78° C. The reaction mass was allowed to come to room temperature and was stirred overnight. The reaction mass was quenched with saturated aq. ammonium chloride solution and extracted with diethyl ether (200 mL×3). The combined organic layers were dried over anhydrous Na2SO4 and concentrated at room temperature to get crude compound. The crude compound was purified by column chromotography (Silica gel, 10% TBME in pet ether) to get (2S)-4-methyloct-7-en-2-ol (12.4 g, 30%) as an oil. 1H NMR (400 MHz, CDCl3): δ ppm 5.84-5.77 (m, 1H), 5.02-4.92 (m, 2H), 4.05-3.85 (sb, 1H), 2.08-2.06 (m, 2H), 1.29-1.20 (m, 2H), 1.19-1.16 (m, 4H), 0.97-0.87 (m, 6H).

reactant | magnesium | 0.020 moles, 7.44 g | [Mg] | Mg
reactant | 5-bromohex-1-ene | 362 mmoles, 50 g | BrC(CCC=C)C | C6H11Br
reactant | (S)-propylene oxide | 241 mmol, 14 g | C1[C@H](C)O1 | C3H6O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
catalyst | copper bromide | 24 mmol, 3.45 g | [Cu](Br)Br
catalyst | iodine | 100 mg | II | I2
product | (2S)-4-methyloct-7-en-2-ol | 12.4 g, 30% | CC(C[C@H](C)O)CCC=C | C9H18O
